US04024283
A solution of 20.0 g. (0.078 mole) of α-bromo-p-pivaloyl toluene in 40 ml. dimethylformamide is warmed to 50° C. and treated dropwise with 9.4 g. (0.0392 mole) of sodium sulfide nonahydrate in 11 ml. water for about 15 minutes. The resulting solution is refluxed for 18 hours, cooled and poured onto 1 liter of ice/water. The aqueous solution is extracted twice with ether and the ether washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated. The residue is recrystallized from methanol to give 4',4'"-(thiodimethylene) bis(pivalophenone); m.p. 64°-65° C.

reactant | α-bromo-p-pivaloyl toluene | 0.078 mole | BrCC1=CC=C(C=C1)C(C(C)(C)C)=O | C12H15BrO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium sulfide nonahydrate | 0.0392 mole | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | water | O | H2O
product | 4',4'"-(thiodimethylene) bis(pivalophenone) | S(CC1=CC=C(C=C1)C(C(C)(C)C)=O)CC1=CC=C(C=C1)C(C(C)(C)C)=O | C24H30O2S
